Circuit electric în regim tranzitoriu
*n=14 Girnita Alexandra-Claudia

R1 0 2 10 ic=2
L 2 3 14 ic=-2
V2 0 3 10
V1 0 1 100
C 0 2 0.071 ic=0
R2 1 2 10 ic=-2

*.dc V2 10 10 1
*.print dc I(R1) I(L) I(C) I(R2)
.TRAN 1 10 uic
.PROBE
.end